US07557114B2
(b) 2,3-Dihydro-1H-isoindole-4-carbonitrile
Prepared in analogy to Example A2(c) from 2-trityl-2,3-dihydro-1H-isoindole-4-carbonitrile and trifluoroacetic acid. Light brown solid.

reactant | 2-trityl-2,3-dihydro-1H-isoindole-4-carbonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC=2C=CC=C(C2C1)C#N | C28H22N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2,3-Dihydro-1H-isoindole-4-carbonitrile | C1NCC=2C(=CC=CC12)C#N | C9H8N2
